US06043254
(a) 2-methyl-4-(4-nitro-phenyl)-imidazole
Prepared by nitrogenation of 2-methyl-4-phenyl-imidazole (melting point: 154-156° C.)) in concentrated sulphuric acid with ammonium nitrate analogously to Example D.

reactant | 2-methyl-4-phenyl-imidazole | CC=1NC=C(N1)C1=CC=CC=C1 | C10H10N2
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-methyl-4-(4-nitro-phenyl)-imidazole | CC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
